US06759554B2
The general procedure under argon was followed using copper(I) iodide (10 mg, 0.05 mmol), K3PO4 (425 mg, 2.00 mmol), benzylamine (131 μL, 1.20 mmol), 3-iodoanisole (119 μl, 1.00 mmol), ethylene glycol (111 μL, 2.00 mmol) and 2-propanol (1.0 mL). Column chromatography using a solvent mixture (hexane/ethyl acetate=10/1, Rƒ=0.4) afforded N-(3-methoxyphenyl)benzylamine (171 mg, 80% isolated yield) as white solid. The spectral data (1H NMR) matched with the literature references and GC analysis indicated >95% purity. See Ali, M. H.; Buchwald, S. L. J. Org. Chem. 2001, 66, 2560-2565.

reactant | K3PO4 | 2.00 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | benzylamine | 1.20 mmol, 131 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 3-iodoanisole | 1.00 mmol, 119 μl | IC=1C=C(C=CC1)OC | C7H7IO
reactant | ethylene glycol | 2.00 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | copper(I) iodide | 0.05 mmol, 10 mg | [Cu]I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | N-(3-methoxyphenyl)benzylamine | 171 mg, 80% | COC=1C=C(C=CC1)NCC1=CC=CC=C1 | C14H15NO
